US09145415B2
To a suspension of tert-butyl (4-cyanotetrahydro-2H-pyran-4-yl)carbamate (G14, 210 mg) and cobalt(II) chloride (241 mg) in methanol (9 mL), sodium borohydride (175 mg) was added at room temperature, and the mixture was stirred at the same temperature for 1 hour. To the reaction mixture, cobalt(II) chloride (241 mg) and sodium borohydride (175 mg) were added at room temperature, and the mixture was stirred at the same temperature for 2 hours. To the reaction mixture, ethyl acetate and 1.0 mol/L aqueous sodium hydroxide were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain tert-butyl (4-(aminomethyl)tetrahydro-2H-pyran-4-yl)carbamate (G15, 195 mg).

reactant | tert-butyl (4-cyanotetrahydro-2H-pyran-4-yl)carbamate | 210 mg | C(#N)C1(CCOCC1)NC(OC(C)(C)C)=O | C11H18N2O3
reactant | sodium borohydride | 175 mg | [BH4-].[Na+]
reactant | sodium borohydride | 175 mg | [BH4-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 1.0 mol/L | [OH-].[Na+]
solvent | methanol | 9 mL | CO | CH4O
catalyst | cobalt(II) chloride | 241 mg | [Co](Cl)Cl
catalyst | cobalt(II) chloride | 241 mg | [Co](Cl)Cl
product | tert-butyl (4-(aminomethyl)tetrahydro-2H-pyran-4-yl)carbamate | 195 mg | NCC1(CCOCC1)NC(OC(C)(C)C)=O | C11H22N2O3
